US04410537
To a stirred solution of ethyl 5-(2-formyl-3-methoxyphenoxy)-2,2-dimethylpentanoate (6.46 g, 0.021 M) in dry tetrahydrofuran (60 ml) was added dropwise a solution of magnesium iodide (8.67 g, 0.031 M) in dry ether (130 ml). The mixture was then stirred under reflux (51/2 hr). The cooled mixture, containing ethyl 5-(2-formyl-3-hydroxyphenoxy)-2,2-dimethylpentanonate, was poured into 10% hydrochloric acid (110 ml). The organic layer was separated and the aqueous phase extracted with ethyl acetate. The combined organic solutions were washed with water, dried (sodium sulphate) and evaporated. The residue was dissolved in 95% ethanol (50 ml) and 2 N sodium hydroxide solution (100 ml) and stirred at room temperature (20 hr). The solution was then evaporated and the residue diluted with water and extracted with ether. The aqueous phase was acidified with concentrated hydrochloric acid with cooling and the solid produced filtered off and washed with water to give 5-(2-formyl-3-hydroxyphenoxy)-2,2-dimethylpentanoic acid, m.p. 76°-77° C. from benzene/petrol.

reactant | ethyl 5-(2-formyl-3-methoxyphenoxy)-2,2-dimethylpentanoate | 0.021 M, 6.46 g | C(=O)C1=C(OCCCC(C(=O)OCC)(C)C)C=CC=C1OC | C17H24O5
reactant | magnesium iodide | 0.031 M, 8.67 g | [I-].[Mg+2].[I-]
reactant | hydrochloric acid | 110 ml | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ether | 130 ml | CCOCC | C4H10O
product | 5-(2-formyl-3-hydroxyphenoxy)-2,2-dimethylpentanoic acid | C(=O)C1=C(OCCCC(C(=O)O)(C)C)C=CC=C1O | C14H18O5
